US06359134B1
1-(trans-4-Acetylaminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)piperazine
To a solution of 1-(trans-4-aminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)piperazine hydrochloride (50 mg) and triethylamine (30 mg) in dichloromethane (10 ml) was added acetic anhydride (50 mg), and the mixture was stirred at room temperature for 3 hours. The reaction solution was concentrated, and the residue was purified with silica gel column chromatography (ethyl acetate) to give colorless crystals of the title compound (41 mg).

reactant | 1-(trans-4-aminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)piperazine hydrochloride | 50 mg | Cl.N[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl
reactant | triethylamine | 30 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 50 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(trans-4-Acetylaminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)piperazine | 41 mg | C(C)(=O)N[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C23H28ClN3O4S
